US09315542B2
(4S,7S,10S,13S,15S)-10-benzyl-16-iodo-7,13-diisobutyl-15-methyl-1-morpholino-2,5,8,11,14-pentaoxo-4-phenethyl-3,6,9,12-tetraazahexadecan-15-yl pent-4-ynoate
(2S)—N—((S)-1-((2S,4S)-2-hydroxy-1-iodo-2,6-dimethyl-3-oxoheptan-4-yl carbamoyl)-2-phenylethyl)-2-((S)-2-(2-morpholinoacetamido)-4-phenylbutanamido)-4-methylpentanamide (1.18 g, 1.39 mmol) was dissolved in DMF. DMAP (19.2 mg, 0.139 mmol), 4-pentynoic acid (205 mg, 2.09 mmol) and DCC (430 mg, 2.09 mmol) were added. The mixture was stirred at room temperature for 16 hours and then diluted with 200 mL EtOAc. The organic phase was washed with 1N HCl (50 ml), brine (50 mL), and saturated NaHCO3 solution. The organic layer was dried over anhydrous MgSO4 and concentrated under reduced pressure. The crude product was purified by prep HPLC to afford 539 mg of product as a white solid.

reactant | (2S)—N—((S)-1-((2S,4S)-2-hydroxy-1-iodo-2,6-dimethyl-3-oxoheptan-4-yl carbamoyl)-2-phenylethyl)-2-((S)-2-(2-morpholinoacetamido)-4-phenylbutanamido)-4-methylpentanamide | 1.39 mmol, 1.18 g | O[C@](CI)(C([C@H](CC(C)C)NC(=O)[C@H](CC1=CC=CC=C1)NC([C@H](CC(C)C)NC([C@H](CCC1=CC=CC=C1)NC(CN1CCOCC1)=O)=O)=O)=O)C | C40H58IN5O7
reactant | 4-pentynoic acid | 2.09 mmol, 205 mg | C(CCC#C)(=O)O | C5H6O2
reactant | DCC | 2.09 mmol, 430 mg | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | DMF | CN(C)C=O | C3H7NO
catalyst | DMAP | 0.139 mmol, 19.2 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
product | (4S,7S,10S,13S,15S)-10-benzyl-16-iodo-7,13-diisobutyl-15-methyl-1-morpholino-2,5,8,11,14-pentaoxo-4-phenethyl-3,6,9,12-tetraazahexadecan-15-yl pent-4-ynoate | 539 mg | C(CCC#C)(=O)O[C@@](C([C@@H](NC([C@@H](NC([C@@H](NC([C@@H](NC(CN1CCOCC1)=O)CCC1=CC=CC=C1)=O)CC(C)C)=O)CC1=CC=CC=C1)=O)CC(C)C)=O)(CI)C | C45H62IN5O8
